US03989707
A mixture of 3.5 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane, 2.5 parts of 6-chloro-1,3-dihydro-1-(4-piperidinyl)-5-(trifluoromethyl)-2H-benzimidazol-2-one, 2.65 parts of sodium carbonate and 100 parts of 4-methyl- 2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled to room temperature and water is added. The organic layer is separated, dried, filtered and evaporated. The solid residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol, yielding 6-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-5-(trifluoromethyl)-2H-benzimidazol-2-one 2-propanolate; mp. 200° C.

reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 6-chloro-1,3-dihydro-1-(4-piperidinyl)-5-(trifluoromethyl)-2H-benzimidazol-2-one | ClC=1C(=CC2=C(N(C(N2)=O)C2CCNCC2)C1)C(F)(F)F | C13H13ClF3N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl- 2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 6-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-5-(trifluoromethyl)-2H-benzimidazol-2-one 2-propanolate | CC(C)[O-].ClC=1C(=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1)C(F)(F)F | InChI=1S/C29H27ClF5N3O.C3H7O/c30-25-17-27-26(16-24(25)29(33,34)35)36-28(39)38(27)22-11-14-37(15-12-22)13-1-2-23(18-3-7-20(31)8-4-18)19-5-9-21(32)10-6-19;1-3(2)4/h3-10,16-17,22-23H,1-2,11-15H2,(H,36,39);3H,1-2H3/q;-1
